US04940714
2-Ethoxycarbonyl-7-fluoro-1H-imidazo[4,5-c]quinoline (I e-1)
A solution of 1.15 g of 4-amino-7-fluoro-3-(trichloroacetimidoylamino)quinoline diacetate (VIII-1) in 120 ml of ethanol was heated under reflux for two hours. The reaction mixture was concentrated under reduced pressure, and the residue was added to ice-water. After being basified with 2N aqueous ammonia, the mixture was extracted with chloroform. The extract was washed with water and brine, and then dried. The chloroform was removed by evaporation. The residue was chromatographed on a column of silica gel with chloroform-methanol (100:1 v/v), whereby 395 mg (yield: 59%) of the titled compound (I e-1) was obtained as crystals. These were recrystallized from chloroform-ethanol to give colorless crystals melting at 238°~240° C. (d).

reactant | 4-amino-7-fluoro-3-(trichloroacetimidoylamino)quinoline diacetate | 1.15 g | C(C)(=O)O.C(C)(=O)O.NC1=C(C=NC2=CC(=CC=C12)F)NC(C(Cl)(Cl)Cl)=N
solvent | ethanol | 120 ml | C(C)O | C2H6O
product | 2-Ethoxycarbonyl-7-fluoro-1H-imidazo[4,5-c]quinoline | 395 mg, yield: 59% | C(C)OC(=O)C=1NC2=C(C=NC=3C=C(C=CC23)F)N1 | C13H10FN3O2
